US05538988
1,3-Difluoro-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-one (1.5 g, 7.6 mmol) was dissolved in 30 mL of dry THF, the solution was cooled to 0° C. under argon and 1M LAH (7.5 mL, 7.5 mmol) in THF was added over 2 minutes. The mixture was stirred at 0° C. for 1 hour and then 0.28 mL of water, 0.28 mL of 15% aqueous sodium hydroxide and 0.9 mL of water were added sequentially. The mixture was stirred for 5 minutes, filtered, washed with ethyl acetate and dried over magnesium sulfate. Evaporation of the solvents gave 1,3-difluoro-6,7,8,9-tetrahydro-7-hydroxy-5H-benzocycloheptene (1.55 g, 7.8 mmol) as an oil.

reactant | 1,3-Difluoro-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-one | 7.6 mmol, 1.5 g | FC1=CC(=CC2=C1CCC(CC2)=O)F | C11H10F2O
reactant | LAH | 7.5 mmol, 1M, 7.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.28 mL | O | H2O
reactant | sodium hydroxide | 0.28 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,3-difluoro-6,7,8,9-tetrahydro-7-hydroxy-5H-benzocycloheptene | 7.8 mmol, 1.55 g | FC1=CC(=CC2=C1CCC(CC2)O)F | C11H12F2O
